US05990142
15G N-(3-Acetyl-2-hydroxyphenyl)-4-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamide
Following the process described in example 1 (point K), starting from 4-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxylic acid and 3-amino-2-hydroxyacetophenone, the title compound was prepared (93% yield).

reactant | 4-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxylic acid | ClC1=C(C=CC2=C1CC(O2)CCCC2=CC=CC=C2)C(=O)O | C18H17ClO3
reactant | 3-amino-2-hydroxyacetophenone | CC(=O)C1=C(C(=CC=C1)N)O | C8H9NO2
product | N-(3-Acetyl-2-hydroxyphenyl)-4-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamide | 93% yield | C(C)(=O)C=1C(=C(C=CC1)NC(=O)C=1C=CC2=C(CC(O2)CCCC2=CC=CC=C2)C1Cl)O | C26H24ClNO4
